US08334287B2
4-[4-(3-chloro-phenylethynyl)-2,5-dimethyl-imidazol-1-yl]-1-ethyl-1H-pyridin-2-one
The title compound, white crystalline solid, MS: m/e=352.2, 354.1 (M+H+), was prepared in accordance with the general method of example 3 from 4-[4-(3-chloro-phenylethynyl)-2,5-dimethyl-imidazol-1-yl]-1H-pyridin-2-one and ethyl iodide.

reactant | 4-[4-(3-chloro-phenylethynyl)-2,5-dimethyl-imidazol-1-yl]-1H-pyridin-2-one | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1C)C1=CC(NC=C1)=O)C | C18H14ClN3O
reactant | ethyl iodide | C(C)I | C2H5I
product | 4-[4-(3-chloro-phenylethynyl)-2,5-dimethyl-imidazol-1-yl]-1-ethyl-1H-pyridin-2-one | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1C)C1=CC(N(C=C1)CC)=O)C | C20H18ClN3O
